US07432291B2
1.122 g (46.7 mmol) 95% Sodium hydride were given at −50° C. to a solution of 5.630 g (31.2 mmol) 1-allyloxy-4-chloromethyl-2-methyl-benzene and 3.525 g (31.2 mmol) 2-(1H-[1,2,3]-triazol-1-yl)-ethanol in DMF. The mixture was allowed to warm slowly to r. t., stirred for 5 hours. The mixture was concentrated in vacuo and the residue was partitioned between ethyl acetate and water. The organic layer was dried over Na2SO4 and the solvent was distilled off under reduced pressure to yield 7.30 g (86%) 1-[2-(4-Allyloxy-2-methyl-benzyloxy)-ethyl]-1H-[1,2,3]triazole as yellow oil which was used without further purification.

reactant | Sodium hydride | 46.7 mmol, 1.122 g | [H-].[Na+]
reactant | 1-allyloxy-4-chloromethyl-2-methyl-benzene | 31.2 mmol, 5.630 g | C(C=C)OC1=C(C=C(C=C1)CCl)C | C11H13ClO
reactant | 2-(1H-[1,2,3]-triazol-1-yl)-ethanol | 31.2 mmol, 3.525 g | N1(N=NC=C1)CCO | C4H7N3O
reactant | DMF | CN(C)C=O | C3H7NO
product | 1-[2-(4-Allyloxy-2-methyl-benzyloxy)-ethyl]-1H-[1,2,3]triazole | 7.30 g, 86% | C(C=C)OC1=CC(=C(COCCN2N=NC=C2)C=C1)C | C15H19N3O2
